US08957102B2
(Step 3) 1,2-dimethyl-3-oxo-5-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid
1,2-Dimethyl-3-oxo-5-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde was dissolved in t-butyl alcohol (23.5 mL) and 2-methyl-2-butene (8.3 mL, 78.5 mmol) was added at 0° C. After adding an aqueous solution of sodium chlorite (80% tech, 0.95 g, 8.7 mmol) in water (10 mL) and a suspension of potassium phosphite monobasic (3.44 g, 25.3 mmol) in water (23.5 mL) to the resulting reaction mixture, the mixture was stirred at room temperature for 10 hours. After adding water to the stirred reaction mixture, the aqueous layer was extracted with ethyl acetate, dichloromethane and 10:1 dichloromethane/methanol. The organic layer was collected, dried with sodium sulfate, and then filtered. The filtrate was concentrated. The resulting residue was washed with a small volume of ethyl acetate to give the target compound as a white solid (350 mg, 1.5 mmol, 35% yield).

reactant | 1,2-Dimethyl-3-oxo-5-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde | CN1N(C(C(=C1C1=CC=CC=C1)C=O)=O)C | C12H12N2O2
reactant | 2-methyl-2-butene | 78.5 mmol, 8.3 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 8.7 mmol, 0.95 g | Cl(=O)[O-].[Na+]
reactant | potassium phosphite | 25.3 mmol, 3.44 g | P([O-])([O-])[O-].[K+].[K+].[K+]
solvent | t-butyl alcohol | 23.5 mL | C(C)(C)(C)O | C4H10O
solvent | water | 10 mL | O | H2O
solvent | water | 23.5 mL | O | H2O
product | 1,2-dimethyl-3-oxo-5-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.5 mmol, 350 mg, 35% yield | CN1N(C(C(=C1C1=CC=CC=C1)C(=O)O)=O)C | C12H12N2O3
